US04282246
5-(3-Fluorophenylthio)furan-3-carboxylic Acid
By the procedure of Example 13, m-fluorothiophenol (3.0 g., 23.4 mmoles) was reacted with cuprous oxide (1.67 g., 11.7 mmoles) in 30 ml. of dimethylformamide and then reacted further with 5-bromofuran-3-carboxylic acid in 30 ml. of dimethylformamide. Isolation of crude solids (920 mg.) was according to Example 9. Recrystallization from methanol/water, which included decolorization with activated carbon, gave purified 5-(3-fluorophenylthio)furan-3-carboxylic acid (500 mg., m.p. 101°-103° C., m/e 238).

reactant | m-fluorothiophenol | 23.4 mmoles, 3.0 g | FC=1C=C(C=CC1)S | C6H5FS
reactant | 5-bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3-Fluorophenylthio)furan-3-carboxylic Acid | FC=1C=C(C=CC1)SC1=CC(=CO1)C(=O)O | C11H7FO3S
